US05173493
To a solution of 8,9-dihydro-7-[(hydroxy)(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]-10-methylpyrido[1,2-a]indol-6(7H)-one (4.6 g) in acetic acid (92 ml) were added 10% palladium on carbon (2.3 g) and ammonium formate (7.89 g), and the mixture was refluxed gently for 3 hours. After being cooled, the catalyst was filtered off. The filtrate was evaporated, and diluted with water (50 ml) and diisopropyl ether (50 ml). Aqueous sodium hydroxide was added to neutralized the solution. Resulted precipitates were collected, and washed with water and diisopropyl ether successively, to give 8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one (1.87 g).

reactant | 8,9-dihydro-7-[(hydroxy)(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]-10-methylpyrido[1,2-a]indol-6(7H)-one | 4.6 g | OC(C1CCC=2N(C3=CC=CC=C3C2C)C1=O)C=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C37H33N3O2
reactant | ammonium formate | 7.89 g | C(=O)[O-].[NH4+]
solvent | acetic acid | 92 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 2.3 g | [Pd] | Pd
product | 8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | 1.87 g | CC1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CNC2C)=O | C18H19N3O
